US08334236B2
(3) Production of methyl 1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate
8.66 g (64.5 mmol) of 2-(methylamino)nicotinaldehyde was dissolved in methanol (100 mL), and 12.68 g (96.0 mmol) of dimethyl malonate and 2.18 g (25.6 mmol) of piperidine were added to the solution. The resulting mixture was stirred for 7 hours at 80° C. The mixture was cooled, and a solid precipitated therefrom was separated by filtration. The solid was washed with diisopropyl ether, and thus 11.71 g (yield: 84%) of the title compound was obtained as a pale yellow solid.

reactant | 2-(methylamino)nicotinaldehyde | 64.5 mmol, 8.66 g | CNC1=C(C=O)C=CC=N1 | C7H8N2O
reactant | dimethyl malonate | 96.0 mmol, 12.68 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | piperidine | 25.6 mmol, 2.18 g | N1CCCCC1 | C5H11N
solvent | methanol | 100 mL | CO | CH4O
product | methyl 1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | 11.71 g, yield: 84% | CN1C(C(=CC2=CC=CN=C12)C(=O)OC)=O | C11H10N2O3
